US06635633B2
B. 3-(1-Acetyl-piperidin-4-yl)-6-fluoro-benzo[b]thiophene-2-carboxylic acid methyl ester
To a stirred solution of 33.6 g (0.126 mol) of 1-[4-(2,4-difluoro-benzoyl)-piperidin-1-yl]-ethanone and 13 mL (145 mol) of methyl thioglycolate in 320 mL dry THF was added 5.8 g (145 mol) of 60% sodium hydride in mineral oil in portions. The reaction mixture was heated to reflux overnight, allowed to cool to room temperature and the solvent removed under reduced pressure. The residue was then partitioned between 300 mL of CH2Cl2 and 200 mL of water. The aqueous layer was further extracted with CH2Cl2 (2×500 mL). The combined organic layers were washed with brine, dried over Na2SO4, and concentrated to give a residue which was then triturated with hexanes/EtOAc to give 27.5 g (65%) of the desired product as a white solid. MS (electrospray): exact mass calculated for C17H18FNO3S, 335.1; m/z found, 336.1 [M+H]+. 1H NMR (DMSO-d6, 400 MHz, a mixture of amide rotamers): 7.12 (m, 2H), 6.92 (dt, J=8.41, 1.77 Hz, 1H), 4.43 (d, J=3.79 Hz, 1H), 4.43-4.36 (m, 1H), 3.82 (bt, J=14.65 Hz, 1H), 3.57 (s, 3H), 2.92-2.79 (m, 1H), 2.38-2.34 (m, 1H), 1.94 (s, 1.5H), 1.93 (s, 1.5H), 1.86-1.72 (m, 1H), 1.47-1.38 (m, 1H), 1.38-1.27 (m, 0.5H), 1.27-1.16 (m, 1H), 1.15-1.03 (m, 0.5H).

reactant | 1-[4-(2,4-difluoro-benzoyl)-piperidin-1-yl]-ethanone | 0.126 mol, 33.6 g | FC1=C(C(=O)C2CCN(CC2)C(C)=O)C=CC(=C1)F | C14H15F2NO2
reactant | methyl thioglycolate | 145 mol, 13 mL | C(CS)(=O)OC | C3H6O2S
reactant | sodium hydride | 145 mol, 5.8 g | [H-].[Na+]
solvent | THF | 320 mL | C1CCOC1 | C4H8O
product | 3-(1-Acetyl-piperidin-4-yl)-6-fluoro-benzo[b]thiophene-2-carboxylic acid methyl ester | 27.5 g, 65% | COC(=O)C1=C(C2=C(S1)C=C(C=C2)F)C2CCN(CC2)C(C)=O | C17H18FNO3S
